US04101662
4-(p-Chloro-α-hydroxybenzyl)-1-[3-(p-fluorobenzoyl)propyl]piperidine
Sodium borohydride (0.4 g., 0.01 mole) was added in small portions to a stirring solution of 2.2 g. (0.0052 mole) of 2-(p-fluorophenyl)-2-{3-[4-(p-chlorobenzoyl)piperidino]propyl}-1,3-dioxolane in 20 ml. of absolute ethanol. The reaction mixture was stirred until gas evolution ceased and then dilute hydrochloric acid was added dropwise until an acidic solution was obtained. After stirring overnight the mixture was diluted with water and basified with dilute sodium hydroxide. The free base was extracted into chloroform, the chloroform solution was washed with water, dried over magnesium sulfate, filtered, and the filtrate concentrated under vacuum. The residual oil crystallized on trituration with isopropyl ether to give 1.2 g. (60%) of a light brown solid which melted at 143°-146° C. Recrystallization of the solid from benzene-isooctane gave 0.8 g. of a white powdery solid which melted at 146.5°-147° C.

reactant | Sodium borohydride | 0.01 mole, 0.4 g | [BH4-].[Na+]
reactant | 2-(p-fluorophenyl)-2-{3-[4-(p-chlorobenzoyl)piperidino]propyl}-1,3-dioxolane | 0.0052 mole | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCC(CC1)C(C1=CC=C(C=C1)Cl)=O | C24H27ClFNO3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 4-(p-Chloro-α-hydroxybenzyl)-1-[3-(p-fluorobenzoyl)propyl]piperidine | ClC1=CC=C(C(O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)=O)C=C1 | C22H25ClFNO2
